US04654347
[3-[3-(Dimethylamino)-1-oxo-2-propenyl]phenyl]-methylcarbamic acid, methyl ester
A 9.93 g portion of [3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]carbamic acid, methyl ester was alkylated as described in Example 3, using 6.82 g of methyl iodide, giving 10.13 g of the desired compound, mp 93°-95° C.

reactant | [3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]carbamic acid, methyl ester | CN(C=CC(=O)C=1C=C(C=CC1)NC(OC)=O)C | C13H16N2O3
reactant | methyl iodide | 6.82 g | CI | CH3I
product | [3-[3-(Dimethylamino)-1-oxo-2-propenyl]phenyl]-methylcarbamic acid, methyl ester | 10.13 g | CN(C=CC(=O)C=1C=C(C=CC1)N(C(OC)=O)C)C | C14H18N2O3
